* D:\ECE_Projects\Music_Visualizer\Combined_Circuits\Filters_With_LED_Drivers\FinalUpperMidrangeFilterWithLEDDriver.asc
R1 N001 Vs 78.7k
V1 Vs 0 SINE(0 0.2 3000) AC 1
R3 F1 N003 159k
R4 N004 F1 59k
R5 0 N004 7.87k
R6 F2 N005 243k
R7 F2 N002 107k
R8 N002 0 14.7k
R9 F3 N006 453k
C1 F1 N001 1n
C2 N003 N001 1n
C3 F2 N004 1n
C4 N005 N004 1n
C5 F3 N002 1n
C6 N006 N002 1n
R2 N001 0 26.5k
Vcc Vcc 0 5
Vee 0 Vee 5
XU1 0 N003 Vcc Vee F1 LM324
XU2 0 N005 Vcc Vee F2 LM324
XU3 0 N006 Vcc Vee F3 LM324
C7 Vi F3 1µ
R10 Vi 0 1k
D1 Vps LED1 NSCW100
D2 Vps LED2 NSCW100
D3 Vps LED3 NSCW100
D4 Vps LED4 NSCW100
D5 Vps LED5 NSCW100
D6 Vps LED6 NSCW100
D7 Vps LED7 NSCW100
D8 Vps LED8 NSCW100
D9 Vps LED9 NSCW100
D10 Vps LED10 NSCW100
C8 Vps 0 220µ
Vps Vps 0 9
XU4 Vps VRhi Vi Vps 0 0 LED1 LED10 LED2 LED3 LED4 LED5 LED6 LED7 LED8 LED9 Vref 0 lm3915
R11 Vref 0 680
R12 Vcc Vin 10k
R13 Vin 0 1k
XU5 Vin VRhi Vcc Vee VRhi LTC1250
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.002
;ac dec 100 1000 10000
* [2kHz to 4kHz]
.include LM324.txt
.lib C:\Users\Ghani\Downloads\LM3914 andLM3915\LM3915.sub
.lib LTC.lib
.backanno
.end
