* D:\ECE_Projects\Music_Visualizer\Misc\Full_Negative_5V_Regulator_Circuit.asc
C6 RegOut 0 10µ
Rload RegOut 0 500
XU1 0 Vo N003 Vo RegOut LT1964-5
C7 RegOut N003 0.01µ
XU2 0 RR Tout VCC N002 RR N001 VCC NE555
V1 VCC 0 9
Ra1 VCC N001 1k
Rb1 N001 RR 10k
C8 RR 0 50n
C9 N002 0 10n
C1 Tout V1 220µ
C2 V1 V2 220µ
C3 0 V3 220µ
C4 V3 Vo 220µ
D1 V1 0 1N4001
D2 V3 V1 1N4001
D3 V2 V3 1N4001
D4 Vo V2 1N4001
R1 Tout 0 100k
C5 0 Vo 1µ
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib LT1964.lib
.lib NE555.sub
.backanno
.end
