* D:\ECE_Projects\Music_Visualizer\Misc\Inverting (Real) Amp with Bridge Rectifier.asc
V1 Vin 0 SINE(0 0.17 10) AC 0.17
R2 N001 Vin 1k
R3 Aout N001 38k
D1 Aout R+ D
D2 R- 0 D
D3 0 R+ D
D4 R- Aout D
R6 R+ R- 1k
Vcc Vcc 0 5
Vee Vee 0 -5
XU1 0 N001 Vcc Vee Aout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.25
;ac lin 100 1 100
.lib opamp.sub
.lib UniversalOpAmp1.lib
.backanno
.end
