* D:\ECE_Projects\Music_Visualizer\Misc\LM324_Example.asc
V1 Vin 0 SINE(0 1 10)
Vcc Vcc 0 5
Vee 0 Vee 5
XU1 0 N001 Vcc Vee Vout LM324
R1 N001 Vin 10k
R2 Vout N001 20k
R3 Vout 0 50k
.include LM324.txt
.tran 1
.backanno
.end
