* D:\ECE_Projects\Music_Visualizer\Misc\LT1054_Inverter_and_regulator.asc
XU1 VFb N001 0 N002 Vout Vref NC_01 Vin LT1054
V1 Vin 0 9
R1 VFb Vref 20k
R2 VFb Vout 102k
R3 Vout 0 100
C5 N001 N002 10µ
C6 Vin 0 2µ
C7 Vout VFb 0.002µ
C8 0 Vout 100µ
.tran 30m uic
.lib LT1054.sub
.backanno
.end
