* D:\ECE_Projects\Music_Visualizer\Misc\NegativeVoltageDoubler555.asc
XU1 0 RR Tout VCC N002 RR N001 VCC NE555
V1 VCC 0 9
Ra VCC N001 1k
Rb N001 RR 10k
C1 RR 0 50n
C2 N002 0 10n
C3 Tout V1 220µ
C4 V2 V1 220µ
C5 V3 0 220µ
C6 V3 Vo 220µ
D1 V1 0 1N4001
D2 V3 V1 1N4001
D3 V2 V3 1N4001
D4 Vo V2 1N4001
R1 Tout 0 100k
C7 0 Vo 1µ
R2 Vo 0 800
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib NE555.sub
.backanno
.end
