* D:\ECE_Projects\Music_Visualizer\Rectifiers\PrecisionHalfWaveRectifier.asc
XU1 0 N001 Vcc Vee Ao level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vcc NC_01 0 5
Vee NC_02 0 -5
V1 Vin 0 SINE(0 1 10)
R1 N001 Vin 10k
R2 Ao N001 17k
R3 Vo 0 10k
D1 N001 Ao D
D2 Ao Vo D
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib UniversalOpAmp1.lib
.backanno
.end
