* source LMX24_LM2902
V_V1         VCC 0 5
V_V2         0 VEE 5
X_U1         VIN VOUT VCC VEE VOUT LMX24_LM2902
V_V3         VIN 0  
+SIN 0 1 1k 0 0 0
