* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\BassFilterSK.asc
XU1 N003 N007 F1 opamp Aol=100K GBW=10Meg
XU2 N005 0 F2 opamp Aol=100K GBW=10Meg
R1 N001 Vi 111k
V1 Vi 0 SINE(0 1 260) AC 1
XU3 N006 0 F3 opamp Aol=100K GBW=10Meg
R2 N007 0 118k
R3 F1 N003 90.7k
R4 N004 F1 63.5k
R5 0 N004 62.2k
R6 N005 F2 312k
R7 F2 N002 67.6k
R8 N002 0 66.2k
R9 F3 N006 332k
C1 F1 N001 13n
C2 N003 N001 13n
C3 F2 N004 6.8n
C4 N005 N004 6.8n
C5 F3 N002 24n
C6 N006 N002 24n
R10 N007 F1 163k
;tran 0.05
.lib opamp.sub
.ac dec 100 1 1000
.backanno
.end
