* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\LowMidrangeFilterSK.asc
XU1 N003 0 F1 opamp Aol=100K GBW=10Meg
XU2 N005 0 F2 opamp Aol=100K GBW=10Meg
R1 N001 Vi 135k
V1 Vi 0 SINE(0 1 260) AC 1
XU3 N006 0 F3 opamp Aol=100K GBW=10Meg
R3 F1 N003 271k
R4 N004 F1 142k
R5 0 N004 19.2k
R6 F2 N005 595k
R7 F2 N002 139k
R8 N002 0 18.9k
R9 F3 N006 583k
C1 F1 N001 4.7n
C2 N003 N001 4.7n
C3 F2 N004 3.3n
C4 N005 N004 3.3n
C5 F3 N002 6.2n
C6 N006 N002 6.2n
R2 N001 0 45.1k
;tran 0.05
.lib opamp.sub
.ac dec 100 1 1000
.backanno
.end
