* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\MidrangeFilterSK.asc
XU1 N003 N007 F1 opamp Aol=100K GBW=10Meg
XU2 N005 0 F2 opamp Aol=100K GBW=10Meg
R1 N001 Vi 99.7k
V1 Vi 0 SINE(0 1 260) AC 1
XU3 N006 0 F3 opamp Aol=100K GBW=10Meg
R3 F1 N003 99.2k
R4 N004 F1 55.9k
R5 0 N004 48.6k
R6 F2 N005 271k
R7 F2 N002 67k
R8 N002 0 58.2k
R9 F3 N006 325k
C1 F1 N001 1.6n
C2 N003 N001 1.6n
C3 F2 N004 1n
C4 N005 N004 1n
C5 F3 N002 3n
C6 N006 N002 3n
R2 N007 0 33.2k
R10 N007 F1 65.8k
;tran 0.05
.lib opamp.sub
.ac dec 100 400 2100
.backanno
.end
