* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\SubBaseFilterSK.asc
XU1 N003 0 F1 opamp Aol=100K GBW=10Meg
XU2 N005 0 F2 opamp Aol=100K GBW=10Meg
R1 N001 Vi 84.6k
V1 Vi 0 SINE(0 1 55) AC 1
XU3 N006 0 F3 opamp Aol=100K GBW=10Meg
R2 N001 0 160k
R3 F1 N003 169k
R4 N004 F1 90k
R5 0 N004 37k
R6 N005 F2 405k
R7 F2 N002 86.7k
R8 N002 0 35.6k
R9 F3 N006 390k
C1 F1 N001 47n
C2 N003 N001 47n
C3 F2 N004 27n
C4 N005 N004 27n
C5 F3 N002 75n
C6 N006 N002 75n
.lib opamp.sub
;tran 1
.ac dec 100 1 250
.backanno
.end
