* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\Combined_Final\Combined.asc
R1 N004 Vi 84.5k
V1 Vi N001 SINE(0 2.5 40) AC 1
R2 N004 0 160k
R3 N005 N032 169k
R4 N033 N005 90.9k
R5 0 N033 37.4k
R6 N034 N006 402k
R7 N006 N007 86.6k
R8 N007 0 35.7k
R9 VSubBass N035 390k
C1 N005 N004 47n
C2 N032 N004 47n
C3 N006 N033 27n
C4 N034 N033 27n
C5 VSubBass N007 75n
C6 N035 N007 75n
XU1 0 N032 Vcc Vee N005 LM324
XU2 0 N034 Vcc Vee N006 LM324
XU3 0 N035 Vcc Vee VSubBass LM324
Vcc1 Vcc 0 5
Vee1 0 Vee 5
R10 N008 Vi 110k
V2 N001 N002 SINE(0 0.317 155) AC 1
R11 N060 0 118k
R12 N009 N036 90.9k
R13 N037 N009 63.4k
R14 0 N037 62k
R15 N038 N010 309k
R16 N010 N011 68k
R17 N011 0 66.5k
R18 VBass N039 332k
C7 N009 N008 13n
C8 N036 N008 13n
C9 N010 N037 6.8n
C10 N038 N037 6.8n
C11 VBass N011 24n
C12 N039 N011 24n
R19 N060 N009 162k
XU4 N060 N036 Vcc Vee N009 LM324
XU5 0 N038 Vcc Vee N010 LM324
XU6 0 N039 Vcc Vee VBass LM324
R20 N012 Vi 137k
V3 N002 N003 SINE(0 0.317 375) AC 1
R21 N013 N040 270k
R22 N041 N013 143k
R23 0 N041 19.2k
R24 N014 N042 590k
R25 N014 N015 140k
R26 N015 0 19k
R27 VLowMid N043 576k
C13 N013 N012 4.7n
C14 N040 N012 4.7n
C15 N014 N041 3.3n
C16 N042 N041 3.3n
C17 VLowMid N015 6.2n
C18 N043 N015 6.2n
R28 N012 0 45.3k
XU7 0 N040 Vcc Vee N013 LM324
XU8 0 N043 Vcc Vee VLowMid LM324
XU9 0 N042 Vcc Vee N014 LM324
R29 N016 Vi 100k
V4 N003 N062 SINE(0 0.317 1250) AC 1
R30 N017 N044 100k
R31 N045 N017 56k
R32 0 N045 48.7k
R33 N018 N046 270k
R34 N018 N019 66.5k
R35 N019 0 57.6k
R36 VMid N047 324k
C19 N017 N016 1.6n
C20 N044 N016 1.6n
C21 N018 N045 1n
C22 N046 N045 1n
C23 VMid N019 3n
C24 N047 N019 3n
R37 N061 N017 66.5k
R38 0 N061 33.2k
XU10 N061 N044 Vcc Vee N017 LM324
XU11 0 N046 Vcc Vee N018 LM324
XU12 0 N047 Vcc Vee VMid LM324
R39 N020 Vi 78.7k
V5 N062 N063 SINE(0 0.317 3000) AC 1
R40 N021 N048 159k
R41 N049 N021 59k
R42 0 N049 7.87k
R43 N022 N050 243k
R44 N022 N023 107k
R45 N023 0 14.7k
R46 VUpperMid N051 453k
C25 N021 N020 1n
C26 N048 N020 1n
C27 N022 N049 1n
C28 N050 N049 1n
C29 VUpperMid N023 1n
C30 N051 N023 1n
R47 N020 0 26.5k
XU13 0 N048 Vcc Vee N021 LM324
XU14 0 N050 Vcc Vee N022 LM324
XU15 0 N051 Vcc Vee VUpperMid LM324
R48 N024 Vi 78.7k
V6 N063 N064 SINE(0 0.317 5000) AC 1
R49 N025 N052 160k
R50 N053 N025 66.5k
R51 0 N053 2.87k
R52 N026 N054 270k
R53 N026 N027 95.3k
R54 N027 0 4.02k
R55 VPresence N055 383k
C31 N025 N024 1n
C32 N052 N024 1n
C33 N026 N053 1n
C34 N054 N053 1n
C35 VPresence N027 1n
C36 N055 N027 1n
R56 N024 0 7.3k
XU16 0 N052 Vcc Vee N025 LM324
XU17 0 N054 Vcc Vee N026 LM324
XU18 0 N055 Vcc Vee VPresence LM324
R57 N028 Vi 11.5k
V7 N064 0 SINE(0 0.317 10000) AC 1
R58 N029 N056 22.6k
R59 N057 N029 8.06k
R60 0 N057 4.32k
R61 N030 N058 37.4k
R62 N030 N031 19.6k
R63 N031 0 10.5k
R64 VBrilliance N059 90.9k
C37 N029 N028 1n
C38 N056 N028 1n
C39 N030 N057 820p
C40 N058 N057 820p
C41 VBrilliance N031 1n
C42 N059 N031 1n
R65 N028 0 48.7k
XU19 0 N056 Vcc Vee N029 LM324
XU20 0 N058 Vcc Vee N030 LM324
XU21 0 N059 Vcc Vee VBrilliance LM324
XU22 NC_01 NC_02 Vcc Vee NC_03 LM324
XU23 NC_04 NC_05 Vcc Vee NC_06 LM324
XU24 NC_07 NC_08 Vcc Vee NC_09 LM324
.tran 100m
;ac dec 100 1 250
* [20Hz to 60Hz]
.include LM324.txt
* [60Hz to 250Hz]
* [250Hz to 500Hz]
* [500Hz to 2kHz]
* [2kHz to 4kHz]
* [4kHz to 6kHz]
* [6kHz to 20kHz]
* Leftover Op-Amps (Cause there are 4 in one IC)
.backanno
.end
