* D:\ECE_Projects\Music_Visualizer\Spectrum_Filters\Final_Filters\FinalBrillianceFilter.asc
R1 N001 Vi 11.5k
V1 Vi 0 SINE(0 1 260) AC 1
R3 F1 N003 22.6k
R4 N004 F1 8.06k
R5 0 N004 4.32k
R6 F2 N005 37.4k
R7 F2 N002 19.6k
R8 N002 0 10.5k
R9 F3 N006 90.9k
C1 F1 N001 1n
C2 N003 N001 1n
C3 F2 N004 820p
C4 N005 N004 820p
C5 F3 N002 1n
C6 N006 N002 1n
R2 N001 0 48.7k
Vcc Vcc 0 5
Vee 0 Vee 5
XU1 0 N003 Vcc Vee F1 LM324
XU2 0 N005 Vcc Vee F2 LM324
XU3 0 N006 Vcc Vee F3 LM324
;tran 0.05
.ac dec 1000 1000 100000
* [6kHz to 20kHz]
.include LM324.txt
.backanno
.end
